US06008362
2-[1-(4-Methyl-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide
Thiosemicarbazide (6.84 g, 75 mmol) was added under nitrogen to a solution of 4-chloro-4'-methylbutyrophenone (10.0 g, 50 mmol) in 175 mL of methanol plus 13.5 mL of 1 N HCl plus 12.5 mL of water and the reaction stirred at room temperature overnight. The solid formed was collected by filtration and dissolved in methylene chloride. The organic solution was washed multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 10.15 g of an off-white solid. Recrystallization of the solid from isopropyl alcohol gave 8.65 g (64%) of the tide compound as an off-white solid, mp133-135° C.

reactant | Thiosemicarbazide | 75 mmol, 6.84 g | NNC(=S)N | CH5N3S
reactant | 4-chloro-4'-methylbutyrophenone | 50 mmol, 10.0 g | ClCCCC(=O)C1=CC=C(C=C1)C | C11H13ClO
solvent | methanol | 175 mL | CO | CH4O
solvent | HCl | 1 N, 13.5 mL | Cl | ClH
solvent | water | 12.5 mL | O | H2O
product | 2-[1-(4-Methyl-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide | 10.15 g | CC1=CC=C(C=C1)C(CCCCl)=NNC(N)=S | C12H16ClN3S
